US07129232B2
To a suspension of 1-methyl-4-phenoxycarbonylamino-5-triphenylmethylaminopyrazole (253.6 g) in N,N-dimethylformamide (1.5 L) were added triethylamine (59.5 g) and tert-butyl N-(2-aminoethyl)carbamate (94.2 g) in N,N-dimethylformamide (254 ml). The mixture was stirred for 5 hours and poured into water (10.6 L). The slurry was stirred for 1 hour. The precipitated solid was collected by filtration and dried to give a crude product. The crude product was suspended in N,N-dimethylformamide, and the suspension was heated under reflux for 20 minutes. The suspension was cooled to ambient temperature over 4 hours. The solid was collected by filtration, washed with acetonitrile and dried to give 4-[N-(2-tert-butoxycarbonylaminoethyl)carbamoylamino]-1-methyl-5-triphenylmethylaminopyrazole (261.2 g).

reactant | 1-methyl-4-phenoxycarbonylamino-5-triphenylmethylaminopyrazole | 253.6 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OC1=CC=CC=C1 | C30H26N4O2
reactant | triethylamine | 59.5 g | C(C)N(CC)CC | C6H15N
reactant | tert-butyl N-(2-aminoethyl)carbamate | 94.2 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | water | 10.6 L | O | H2O
solvent | N,N-dimethylformamide | 1.5 L | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 254 ml | CN(C=O)C | C3H7NO
product | 4-[N-(2-tert-butoxycarbonylaminoethyl)carbamoylamino]-1-methyl-5-triphenylmethylaminopyrazole | 261.2 g | C(C)(C)(C)OC(=O)NCCNC(=O)NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C31H36N6O3
